US05780483
a) Preparation of 2-(tert-butyldimethylsilyloxy)-4-nitroaniline
To a solution of 2-amino-5-nitrophenol (1 g, 6.49 mmol) and imidazole (0.88 g, 12.3 mmol) in DMF (15 mL), tert-butyldimethylsilyl chloride (11.2 mL, 64.9 mmol) was added. The resulting mixture was allowed to stir at 23° C. for 48 hours. The reaction mixture was partitioned between 0.1% HCl and ethyl acetate. The combined organic phase was washed with brine, dried over MgSO4 and filtered. Removal of solvent at reduced pressure and chromatography of the resulting oil on silica gel (hexane:ethyl acetate; 5:1) gave the titled compound (1.7 g, 98%). 1 H NMR (CDCl3): d 7.78 (dd, 1H, J=6.7 Hz and J=2.7 Hz), 7.61 (d, 1H, J=2.7 Hz), 6.7 (d, 1H, J =8.8 Hz), 1.0 (s, 9H), 0.28 (s, 6H).

reactant | 2-amino-5-nitrophenol | 6.49 mmol, 1 g | NC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | imidazole | 12.3 mmol, 0.88 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 64.9 mmol, 11.2 mL | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-(tert-butyldimethylsilyloxy)-4-nitroaniline | 1.7 g, 98% | [Si](C)(C)(C(C)(C)C)OC1=C(N)C=CC(=C1)[N+](=O)[O-] | C12H20N2O3Si
